US09259470B2
(S)-1-(2-(tert-Butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)ethyl)-4-(2-((2-methylpyridin-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one (0.028 g, 0.049 mmol) was placed in THF (5 mL). TBAF (0.054 mL, 0.054 mmol) was then added, and the reaction was stirred for 1 hour, then poured into water, and extracted with DCM. The combined organic fractions were dried (MgSO4), filtered, and concentrated to give the crude product, which was purified by column chromatography (500:40-500:50 DCM/MeOH) to give the product (S)-1-(1-(4-chloro-3-fluorophenyl)-2-hydroxyethyl)-4-(2-((2-methylpyridin-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one (0.005 g, 22% yield). m/z (APCI-pos) M+1=452.

reactant | (S)-1-(2-(tert-Butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)ethyl)-4-(2-((2-methylpyridin-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one | 0.049 mmol, 0.028 g | [Si](C)(C)(C(C)(C)C)OC[C@H](C1=CC(=C(C=C1)Cl)F)N1C(C=C(C=C1)C1=NC(=NC=C1)NC1=CC(=NC=C1)C)=O | C29H33ClFN5O2Si
reactant | TBAF | 0.054 mmol, 0.054 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | water | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (S)-1-(1-(4-chloro-3-fluorophenyl)-2-hydroxyethyl)-4-(2-((2-methylpyridin-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one | 0.005 g, 22% yield | ClC1=C(C=C(C=C1)[C@@H](CO)N1C(C=C(C=C1)C1=NC(=NC=C1)NC1=CC(=NC=C1)C)=O)F | C23H19ClFN5O2
